US08017792B2
1-Bromo-4-ethylbenzene (6.69 g, 0.036 mol) was added to a suspension of magnesium (17.2 g) and tetrahydrofuran (50 mL) and heated to reflux. Subsequently, a tetrahydrofuran (300 mL) solution of 1-bromo-4-ethylbenzene (97.9 g, 0.529 mol) was added for two hours at room temperature. After stirred at room temperature for 1.5 hours, the reaction mixture was cooled to 4° C. and a tetrahydrofuran (100 mL) solution of 2-benzyloxybenzaldehyde (100 g, 0.471 mol) was added for one hour. After stirred for two hours, the reaction mixture was poured into a saturated ammonium chloride aqueous solution. After the mixture was extracted with ethyl acetate, the organic phase was washed with brine and then dried with anhydrous magnesium sulfate. After the desiccant was filtered off, the residue obtained by evaporating the solvent under reduced pressure was purified by silica gel column chromatography (hexane:ethyl acetate=95:5) to obtain (2-benzyloxyphenyl)(4-ethylphenyl)methanol (152 g) as a colorless solid.

reactant | magnesium | 17.2 g | [Mg] | Mg
reactant | 1-bromo-4-ethylbenzene | 0.529 mol, 97.9 g | BrC1=CC=C(C=C1)CC | C8H9Br
reactant | 2-benzyloxybenzaldehyde | 0.471 mol, 100 g | C(C1=CC=CC=C1)OC1=C(C=O)C=CC=C1 | C14H12O2
reactant | ammonium chloride | [Cl-].[NH4+]
catalyst | 1-Bromo-4-ethylbenzene | 0.036 mol, 6.69 g | BrC1=CC=C(C=C1)CC | C8H9Br
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 300 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | (2-benzyloxyphenyl)(4-ethylphenyl)methanol | 152 g | C(C1=CC=CC=C1)OC1=C(C=CC=C1)C(O)C1=CC=C(C=C1)CC | C22H22O2
